US09388176B2
5-(2-Methylsulfanyl-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl)-N-(3-trifluoromethyl-phenyl)-nicotinamide
In a manner similar to that described for Example 138, 2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]-pyrimidine and 5-bromo-N-(3-(trifluoromethyl)phenyl)nicotinamide were converted to the title compound.

reactant | 2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]-pyrimidine | CSC=1N=CC2=C(N1)CCNC2 | C8H11N3S
reactant | 5-bromo-N-(3-(trifluoromethyl)phenyl)nicotinamide | BrC=1C=NC=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C1 | C13H8BrF3N2O
product | 5-(2-Methylsulfanyl-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl)-N-(3-trifluoromethyl-phenyl)-nicotinamide | CSC=1N=CC2=C(N1)CCN(C2)C=2C=NC=C(C(=O)NC1=CC(=CC=C1)C(F)(F)F)C2 | C21H18F3N5OS
